US07635715B2
Step G: Preparation of N-((7-Chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((7-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (1.21 g, 3 mmol) was stirred in TFA (5 mL, 67 mmol) at room temperature for 20 minutes. Water was added. The resulting precipitate was filtered and washed with water to give the desired product as a white solid (650 mg). MS (m/e)=324.1 (M+H)+. Calculated for C15H14ClNO5 323.06.

reactant | 1,1-Dimethylethyl N-((7-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 3 mmol, 1.21 g | ClC1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H22ClNO5
reactant | TFA | 67 mmol, 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Water | O | H2O
product | N-((7-Chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 650 mg | ClC1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)O)O | C15H14ClNO5
